* NexRx Digital Twin - RF Stimulus Sources
* Signal generators for receiver testing
*
* Reference: IMPLEMENTATION-PLAN.md Stage 7
*
* Provides:
* - Single tone generator
* - Two-tone generator for IMD testing
* - Amplitude modulated signal
* - Noise source
*
* Copyright 2026 NexRx Project - MIT License

*======================================================================
* SINGLE TONE RF SOURCE
*
* Parameters:
*   FREQ - Frequency in Hz
*   AMP  - Peak amplitude in Volts
*   Z0   - Source impedance in Ohms
*======================================================================

.SUBCKT RF_TONE_50 RF_OUT GND FREQ=14MEG AMP=0.1 Z0=50
V_SIG VSRC GND SIN(0 {AMP} {FREQ})
R_SRC VSRC RF_OUT {Z0}
.ENDS RF_TONE_50

*======================================================================
* TWO-TONE RF SOURCE
* For intermodulation distortion testing
*
* Parameters:
*   FREQ1, FREQ2 - Two tone frequencies
*   AMP1, AMP2   - Individual amplitudes
*   Z0           - Source impedance
*======================================================================

.SUBCKT RF_TWOTONE RF_OUT GND FREQ1=14MEG FREQ2=14.002MEG AMP1=0.1 AMP2=0.1 Z0=50
V_SIG1 VSRC1 GND SIN(0 {AMP1} {FREQ1})
V_SIG2 VSRC2 GND SIN(0 {AMP2} {FREQ2})
* Sum the two signals
R_SUM1 VSRC1 VSUM 100
R_SUM2 VSRC2 VSUM 100
* Output with source impedance
R_SRC VSUM RF_OUT {Z0}
.ENDS RF_TWOTONE

*======================================================================
* AM MODULATED RF SOURCE
* Amplitude modulated carrier for receiver testing
*
* Parameters:
*   FC   - Carrier frequency
*   FM   - Modulation frequency
*   AMP  - Carrier amplitude
*   MOD  - Modulation depth (0-1)
*   Z0   - Source impedance
*======================================================================

.SUBCKT RF_AM RF_OUT GND FC=14MEG FM=1k AMP=0.1 MOD=0.5 Z0=50
* AM signal: A * (1 + m*sin(2*pi*fm*t)) * sin(2*pi*fc*t)
* Using behavioral source
B_AM VSRC GND V='{AMP} * (1 + {MOD}*sin(6.2832*{FM}*TIME)) * sin(6.2832*{FC}*TIME)'
R_SRC VSRC RF_OUT {Z0}
.ENDS RF_AM

*======================================================================
* THERMAL NOISE SOURCE
* Approximates receiver thermal noise floor
*
* Uses pseudo-random noise via polynomial feedback
* Not spectrally flat but useful for simulation
*
* Parameters:
*   NF   - Noise figure equivalent (affects amplitude)
*   BW   - Noise bandwidth (approximation)
*   Z0   - Source impedance
*======================================================================

.SUBCKT RF_NOISE RF_OUT GND NF=10 BW=100k Z0=50
* Thermal noise power: kTB = 4e-21 * BW (W/Hz at 290K)
* Noise voltage: sqrt(4kTBR) = sqrt(4 * 1.38e-23 * 290 * BW * R)
* For BW=100kHz, R=50: Vn_rms = 0.9 uV
* NF adds gain: Vn_total = Vn * 10^(NF/20)

* Behavioral noise source using hash function
* TIME is converted to pseudo-random value
B_NOISE VNOISE GND V='0.9e-6 * pow(10, {NF}/20) * sin(12345.67*TIME + sin(9876.54*TIME))'
R_SRC VNOISE RF_OUT {Z0}
.ENDS RF_NOISE

*======================================================================
* COMPOSITE RF STIMULUS
* Combines signal + noise for realistic receiver testing
*
* Parameters:
*   FREQ - Signal frequency
*   AMP  - Signal amplitude
*   SNR  - Signal to noise ratio in dB
*   Z0   - Source impedance
*======================================================================

.SUBCKT RF_STIMULUS RF_OUT GND FREQ=14MEG AMP=0.1 SNR=40 Z0=50
* Signal path
V_SIG VSIG GND SIN(0 {AMP} {FREQ})

* Noise level: Vnoise = Vsig / 10^(SNR/20)
* Pseudo-random noise using behavioral source
B_NOISE VNOISE GND V='{AMP} / pow(10, {SNR}/20) * sin(12345.67*TIME + cos(98765.4*TIME))'

* Sum signal and noise
R_SIG VSIG VSUM 100
R_NOISE VNOISE VSUM 100

* Output with source impedance
R_SRC VSUM RF_OUT {Z0}
.ENDS RF_STIMULUS

*======================================================================
* CONFIGURABLE ANTENNA STIMULUS
* Most flexible stimulus for digital twin
* Supports single tone, two-tone, or external drive
*
* This is the primary stimulus used by the orchestrator.
* In full simulation, the Xyce callback would update VSRC value.
*======================================================================

.SUBCKT ANTENNA_INPUT RF_OUT GND
+ FREQ=14MEG AMP=0.1 Z0=50
+ ENABLE_NOISE=0 SNR=40

* Primary signal source
V_SIG VSIG GND SIN(0 {AMP} {FREQ})

* Optional noise (controlled by ENABLE_NOISE parameter)
* When ENABLE_NOISE=0, noise contribution is zero
B_NOISE VNOISE GND V='{ENABLE_NOISE} * {AMP} / pow(10, {SNR}/20) * sin(12345.67*TIME)'

* Combine signal and noise
R_SIG VSIG VSUM 100
R_NOISE VNOISE VSUM 100

* Output matching
R_SRC VSUM RF_OUT {Z0}

.ENDS ANTENNA_INPUT

.END
